US06855706B2
Step 1 Synthesis of 2-ethyl-2-(phenylsulfonyl)Butanoic Acid
Methyl phenylsulfonylacetate (0.64 ml, 4.0 mmol) was diluted with DMF (5 ml). Sodium hydride (384 mg, 16 mmol) and ethyl bromide (1.19 ml, 16 mmol) were added thereto under argon atmosphere. The mixture was stirred at room temperature overnight. Water was added to the reaction mixture under cooling with ice to terminate the reaction. After the extraction with ethyl acetate (10 ml×3), the organic layers were combined together, dried and concentrated under reduced pressure. The residue was purified by the silica gel column chromatography (hexane, hexane/ethyl acetate, 100/1) to obtain an intermediate product. The intermediate product (532 mg, 1.97 mmol) was dissolved in THF (4 ml). Water (70.9 μl, 3.84 mmol) and tBuOK (1.77 g, 15.8 mmol) were added to the obtained solution. The reaction mixture was stirred at room temperature for 4 days. Additional water (35.5 μl, 1.97 mmol) and tBuOK (1.55 g, 13.8 mmol) were added to the obtained solution. After stirring at room temperature for 9 days, the reaction mixture was diluted with DCM (10 ml). The resultant mixture was extracted with water (10 ml). pH of the aqueous layer was adjusted to 2. After the extraction with DCM (10 ml×3), the organic layers were combined together, dried and concentrated under reduced pressure to quantitatively obtain 481 mg of the intended compound.

reactant | Methyl phenylsulfonylacetate | 4.0 mmol, 0.64 ml | C1(=CC=CC=C1)S(=O)(=O)CC(=O)OC | C9H10O4S
reactant | Sodium hydride | 16 mmol, 384 mg | [H-].[Na+]
reactant | ethyl bromide | 16 mmol, 1.19 ml | C(C)Br | C2H5Br
reactant | tBuOK | 15.8 mmol, 1.77 g | C(C)(C)(C)O[K]
reactant | tBuOK | 13.8 mmol, 1.55 g | C(C)(C)(C)O[K]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
solvent | water | 1.97 mmol, 35.5 μl | O | H2O
solvent | Water | 3.84 mmol, 70.9 μl | O | H2O
product | 2-ethyl-2-(phenylsulfonyl)Butanoic Acid | C(C)C(C(=O)O)(CC)S(=O)(=O)C1=CC=CC=C1 | C12H16O4S
